US04492692
4-Chloromethyl-2-fluoro-1-triphenylmethylimidazole was treated with methanethiol and triethylamine in THF solution to give 2-fluoro-4-methylthiomethyl-1-triphenylmethylimidazole. This was condensed with t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate as for the starting material of Example 42 to give t-butyl 3-acetoxymethyl-7-(4-methylthiomethylimidazol-2-yl)aminoceph-3-em-4-carboxylate, having the following n.m.r. spectrum in d6DMSO: 1.5 (s, 9H); 2.0 (s, 6H); 3.5 (d, 2H); 3.8 (d, 2H); 4.7 (d, 1H); 5.0 (d, 1H); 5.25 (d, 1H); 5.65 (d, 1H); 7.0 (s, 1H).

reactant | 4-Chloromethyl-2-fluoro-1-triphenylmethylimidazole | ClCC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H18ClFN2
reactant | methanethiol | CS | CH4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 2-fluoro-4-methylthiomethyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)CSC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21FN2S
